US05939439
Step 1: 4-(4-Bromophenyloxy)imidazole
To a mixture of liquid 4-bromophenol (25 g, mp 64-68° C.) at 100-110° C. and its sodium salt [Prepared from 3.5 g (20 mmol) 4-bromo-phenol and sodium metal (0.46 g, 20 mmol) in anhydrous methanol. The resultant solution was concentrated and the residual solvent removed under vacuum overnight], neat methyl N-(cyano-methyl)methanimidate (2 mL, 20 mmol; Hosmane, R. S. et al, J. Org. Chem., p. 1212, 1984) was added dropwise over a period of 10 minutes under a slow stream of dry argon. The resultant mixture was stirred at 100° C. for 2 h, and the reaction product partitioned between methylene chloride (250 mL) and aqueous sodium hydroxide (1M, 250 mL). The aqueous layer was separated and extracted with methylene chloride (3×50 mL). The organic extracts were combined, washed with brine (50 mL), dried over anhydrous potassium carbonate, filtered and concentrated. The residue was subjected to column chromatography on silica gel eluting with a mixture of 7:3 v/v chloroform and acetone. Collection and concentration of appropriate fractions provided the titled compound as white powder.

reactant | 4-bromophenol | 25 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium | [Na] | Na
reactant | 4-bromo-phenol | 20 mmol, 3.5 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium | 20 mmol, 0.46 g | [Na] | Na
reactant | methyl N-(cyano-methyl)methanimidate | 20 mmol, 2 mL | C(#N)CN=COC | C4H6N2O
solvent | methanol | CO | CH4O
product | 4-(4-Bromophenyloxy)imidazole | BrC1=CC=C(C=C1)OC=1N=CNC1 | C9H7BrN2O
